* source B1
R_R1         N04404 N04411  9k TC=0,0 
R_R2         N04411 N04388  3k TC=0,0 
R_R3         0 N04411  6k TC=0,0 
R_R4         0 N04388  3k TC=0,0 
V_V1         N04404 0 12Vdc
